US09290476B2
N-Methoxy-N-methyl-4-nitrobenzamide
The title compound was prepared by substituting thiazole-5-carboxylic acid with 4-nitrobenzoic acid then following the procedure described for the preparation of N-methoxy-N-methylthiazole-5-carboxamide (Intermediate 11: step a).

reactant | 4-nitrobenzoic acid | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | N-methoxy-N-methylthiazole-5-carboxamide | CON(C(=O)C1=CN=CS1)C | C6H8N2O2S
product | N-Methoxy-N-methyl-4-nitrobenzamide | CON(C(C1=CC=C(C=C1)[N+](=O)[O-])=O)C | C9H10N2O4
